US09260408B2
(R)-2-Methyl-propane-2-sulfinic acid [4-methyl-5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide
In analogy to the procedure described for the preparation of example 45, 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) has been coupled to (R)-2-methyl-propane-2-sulfinic acid (5-bromo-4-methyl-pyridin-3-ylmethyl)-amide (intermediate A-59) to give the title compound as a colorless amorphous solid. MS: 386.5 (M+H+).

reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
reactant | (R)-2-methyl-propane-2-sulfinic acid (5-bromo-4-methyl-pyridin-3-ylmethyl)-amide | BrC=1C(=C(C=NC1)CN[S@](=O)C(C)(C)C)C | C11H17BrN2OS
product | (R)-2-Methyl-propane-2-sulfinic acid [4-methyl-5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide | CC1=C(C=NC=C1C=1C=C2CCC(N(C2=CC1)C)=O)CN[S@](=O)C(C)(C)C | C21H27N3O2S
